US07994202B2
6-Trifluoromethyl-3-iodo-1H-indazole
Potassium hydroxide (73 mg, manufactured by Wako Pure Chemical Industries, Ltd.) and iodine (330 mg, manufactured by Kanto Chemical Co., Inc.) were added to a solution of 6-(trifluoromethyl)-1H-indazole (121 mg) synthesized according to the literature (Shoji, et al., Tetrahedron Lett., 2004, 45, 1769-1772) in N,N-dimethylformamide (6.5 mL, manufactured by Kanto Chemical Co., Inc.), and the mixture was stirred for 3 hours at room temperature. An aqueous solution of sodium thiosulfate (20 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate (3×20 mL), washed with brine (40 mL), and dried (MgSO4). The solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1), to give 169 mg of the title compound. LC-MS: HPLC retention time 4.46 minutes, m/z 313 (M+H), condition B-1.

reactant | Potassium hydroxide | 73 mg | [OH-].[K+]
reactant | iodine | 330 mg | II | I2
reactant | 6-(trifluoromethyl)-1H-indazole | 121 mg | FC(C1=CC=C2C=NNC2=C1)(F)F | C8H5F3N2
reactant | sodium thiosulfate | 20 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
product | 6-Trifluoromethyl-3-iodo-1H-indazole | 169 mg | FC(C1=CC=C2C(=NNC2=C1)I)(F)F | C8H4F3IN2
